US05324747
A mixture of 0.50 g (0.96 mmol) of N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine, 1.3 g (9.6 mmol) of 2-diethylaminoethyl chloride and 1.34 ml (7.7 mmol) of N,N-diisopropyl ethylamine in 15 ml of DMF was stirred at room temperature for 48 hours. The reaction mixture was concentrated on the oil pump and the residue was treated with NaHCO3 solution. The product was extracted with ethyl acetate and the dried extract was concentrated at reduced pressure to an oil which was purified by chromatography on 25 g of 230-400 mesh silica gel using methylene chloride(90):methanol(10);concentrated ammonium hydroxide(0.1). The resultant pure free base (0.51 g) was converted to the dihydrochloride salt by treatment of a methylene chloride solution was 0.95 ml of 3N HCl in ethanol. After concentration, the product was dissolved in ether and stored at -18° until crystals formed. Filtration gave 0.28 g, mp 132°-135° of N-[3,5-bis-(decyloxy)phenyl]-N-[ 2-[2-(diethylamino)ethoxy]-2-oxoethyl]glycine 2-(diethylamino)ethyl ester dihydrochloride.

reactant | N-(carboxymethyl)-N-[3,5-bis(decyloxy)phenyl]glycine | 0.96 mmol, 0.50 g | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC | C30H51NO6
reactant | 2-diethylaminoethyl chloride | 9.6 mmol, 1.3 g | C(C)N(CCCl)CC | C6H14ClN
reactant | N,N-diisopropyl ethylamine | 7.7 mmol, 1.34 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-[3,5-bis-(decyloxy)phenyl]-N-[ 2-[2-(diethylamino)ethoxy]-2-oxoethyl]glycine 2-(diethylamino)ethyl ester dihydrochloride | 0.28 g | Cl.Cl.C(C)N(CCOC(CN(CC(=O)OCCN(CC)CC)C1=CC(=CC(=C1)OCCCCCCCCCC)OCCCCCCCCCC)=O)CC | InChI=1S/C42H77N3O6.2ClH/c1-7-13-15-17-19-21-23-25-29-48-39-33-38(34-40(35-39)49-30-26-24-22-20-18-16-14-8-2)45(36-41(46)50-31-27-43(9-3)10-4)37-42(47)51-32-28-44(11-5)12-6;;/h33-35H,7-32,36-37H2,1-6H3;2*1H
